US08389508B2
To a solution of 1-bromo-3-(bromomethyl)-2-ethylbenzene (D134) (1.3 g, 4.68 mmol) in Toluene (10 mL) was added triethyl phosphite (0.818 mL, 4.68 mmol). The reaction solution was heated in a sealed tube at 130° C. for 2 days. The solvent was removed in vacuo to afford diethyl [(3-bromo-2-ethylphenyl)methyl]phosphonate (D135) (1.567 g), which was used directly without further purification. MS (ES): C13H20BrO3P requires 334.0. found 335.0 (M+H+).

reactant | 1-bromo-3-(bromomethyl)-2-ethylbenzene | 4.68 mmol, 1.3 g | BrC1=C(C(=CC=C1)CBr)CC | C9H10Br2
reactant | triethyl phosphite | 4.68 mmol, 0.818 mL | P(OCC)(OCC)OCC | C6H15O3P
solvent | Toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | diethyl [(3-bromo-2-ethylphenyl)methyl]phosphonate | 1.567 g | BrC=1C(=C(C=CC1)CP(OCC)(OCC)=O)CC | C13H20BrO3P
